US04780480
Ethyl 6-methoxy-7-(4-methoxybenzoyl)-2,3-dihydrobenzofuran-5-ylacetate (3.6 g) was dissolved in dichloromethane (40 ml) and cooled to 0° C. To this was added boron trichloride (30 ml 1M). The reaction was allowed to warm to room temperature and, after 2 hours, added to water. The dichloromethane solution was washed 2 times with water, dried, and evaporated. The residue was run on a silica gel column, being eluted with ethyl acetate/hexane to give ethyl 6-hydroxy-7-(4-methoxybenzoyl)-2,3-dihydrobenzofuran-5-ylacetate. Saponification as per Example 3 gave 6-hydroxy-7-(4-methoxybenzoyl)-2,3-dihydrobenzofuran-5-ylacetic acid.

reactant | Ethyl 6-methoxy-7-(4-methoxybenzoyl)-2,3-dihydrobenzofuran-5-ylacetate | 3.6 g | COC1=C(C2=C(CCO2)C=C1CC(=O)OCC)C(C1=CC=C(C=C1)OC)=O | C21H22O6
reactant | boron trichloride | 1M, 30 ml | B(Cl)(Cl)Cl | BCl3
reactant | water | O | H2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | ethyl 6-hydroxy-7-(4-methoxybenzoyl)-2,3-dihydrobenzofuran-5-ylacetate | OC1=C(C2=C(CCO2)C=C1CC(=O)OCC)C(C1=CC=C(C=C1)OC)=O | C20H20O6
